US05614530
A mixture of 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline (15.0 g, 0.065 mol), benzylamine (15.6 mL, 0.14 mol) and DMSO (100 mL) was heated at 80° C. overnight. The reaction mixture was poured into ice/water and the gummy solid which formed was collected by filtration. The solid was dissolved in ethyl acetate, dried over MgSO4, filtered and concentrated. The residual oil was crystallized from ethyl acetate to afford 18 g (92%) of 1-ethyl-N-(phenyl methyl)-1H-pyrazolo[3,4-b]quinolin-4-amine, m.p. 130°-132° C.

reactant | 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline | 0.065 mol, 15.0 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2Cl | C12H10ClN3
reactant | benzylamine | 0.14 mol, 15.6 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 1-ethyl-N-(phenyl methyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 18 g, 92% | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2NCC2=CC=CC=C2 | C19H18N4
